US07786307B2
k) tert-Butyl 4(S)-(2(S)-hydroxymethyl-3-methylbutyl)-2,2-dimethyloxazolidine-3-carboxylate
A solution of 3.58 g of tert-butyl 4(S)-(2(S)-benzyloxymethyl-3-methylbutyl)-2,2-dimethyl-oxazolidine-3-carboxylate in 100 ml of tetrahydrofuran is hydrogenated at room temperature in the presence of 0.720 g of 10% Pd/C over 1 hour. The reaction mixture is clarified by filtration and the filtrate is concentrated by evaporation. The title compound is obtained from the residue by means of flash chromatography (SiO2 60F) as a yellowish oil. Rf=0.28 (1:2 EtOAc-heptane); Rt=4.48 (gradient I).

reactant | tert-butyl 4(S)-(2(S)-benzyloxymethyl-3-methylbutyl)-2,2-dimethyl-oxazolidine-3-carboxylate | 3.58 g | C(C1=CC=CC=C1)OC[C@@H](C[C@@H]1N(C(OC1)(C)C)C(=O)OC(C)(C)C)C(C)C | C23H37NO4
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
catalyst | Pd/C | 0.720 g | [Pd] | Pd
product | tert-Butyl 4(S)-(2(S)-hydroxymethyl-3-methylbutyl)-2,2-dimethyloxazolidine-3-carboxylate | OC[C@@H](C[C@@H]1N(C(OC1)(C)C)C(=O)OC(C)(C)C)C(C)C | C16H31NO4
